US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-6-methoxy-pyridin-3-yl]-acetic acid ethyl ester and methoxyacetyl chloride were reacted as described in Example 5, Step 4 to provide [5-(2-{[N-ethyl-N-(2-methoxy-acetyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-6-methoxy-pyridin-3-yl]-acetic acid ethyl ester. The ester was hydrolyzed to the acid as described in Example 3, Step 7.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-6-methoxy-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)OC)=O | C20H23F3N2O3
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | [5-(2-{[N-ethyl-N-(2-methoxy-acetyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-6-methoxy-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(COC)=O)CC)OC)=O | C23H27F3N2O5
